US05144045
2-Nonadecyn-1-ol
A mixture of 56 1 g of propargyl alcohol in 100 ml of tetrahydrofuran and 15.6 g of lithium in 1 liter of ammonia containing a trace of ferric chloride is stirred for 1 hour. A 76.4 ml portion of hexadecyl bromide is added and the mixture refluxed for 8 hours then evaporated. The residue is dissolved in ether and washed with 10% hydrochloric acid, dried and purified by flash chromatography, to give 47.4 g of the desired compound as white platelets, mp. 60° C.

reactant | propargyl alcohol | C(C#C)O | C3H4O
reactant | lithium | 15.6 g | [Li] | Li
reactant | hexadecyl bromide | C(CCCCCCCCCCCCCCC)Br | C16H33Br
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ammonia | 1 liter | N | H3N
product | 2-Nonadecyn-1-ol | 47.4 g | C(C#CCCCCCCCCCCCCCCCC)O | C19H36O
